US06969710B2
4-(Methylsulfonyl)-N-[2-[(phenylsulfonyl)amino]-4-(1-piperazinyl)-phenyl]benzenesulfonamide was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide and 4-methylsulfonylbenzenesulfonylchloride (61 mg, 0.455 mmol) according to general method 3 to give 70 mg of a purple solid. MS (posES-FIA) m/z=Found: 551.2. Calcd: 551.10.

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C21H28N4O4S
reactant | 4-methylsulfonylbenzenesulfonylchloride | 0.455 mmol, 61 mg | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO4S2
product | 4-(Methylsulfonyl)-N-[2-[(phenylsulfonyl)amino]-4-(1-piperazinyl)-phenyl]benzenesulfonamide | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)N1CCNCC1)NS(=O)(=O)C1=CC=CC=C1 | C23H26N4O6S3
